US08975254B2
(R)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (100 mg, 0.384 mmol) and 2-bromo-1,3-thiazole-4-carboxylic acid (96 mg, 0.460 mmol). The product was triturated using diethyl ether. Yield 55.8%. 1H-NMR (400 MHz; CDCl3): δ 1.12 (d, 3H), 4.27-4.52 (m, 3H), 6.97 (d, 1H), 7.85 (d, 1H), 8.00 (s, 2H), 8.07 (s, 1H), 8.23 (s, 1H), 8.64 (d, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.384 mmol, 100 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-bromo-1,3-thiazole-4-carboxylic acid | 0.460 mmol, 96 mg | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
product | (R)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | Yield 55.8% | BrC=1SC=C(N1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H13BrClN5OS
